US04563473
11 g (0.05 mol) of 2,4-dichlorobenzoyl chloride were added dropwise to a mixture of 5.5 g (0.05 mol) of 1H-imidazole -1-ethanol [prepared from imidazole and ethylene carbonate by the process of British patent No. 939,681], 20 ml of triethylamine and 150 ml of acetonitrile. The reaction mixture was kept at about 80° C. for another 1.5 hours and then the solvent was evaporated. The residue was dissolved in a mixture of ethyl acetate and diethyl ether and was then extracted with water and subsequently with dilute hydrochloric acid. The acidic aqueous layer was made alkaline after which the base was taken up in ethyl acetate. The organic layer was extracted three times with water, dried and partly concentrated by evaporation. The residue was acidified with maleic acid and the 2-(1H-imidazol-1-yl)-ethyl 2,4-dichlorobenzoate (Z)-2-butenedioate (1:1) obtained was crystallized from a mixture of 2-propanol, acetone and diethyl ether to obtain the product with a melting point of 116-117° C.

reactant | 2,4-dichlorobenzoyl chloride | 0.05 mol, 11 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 1H-imidazole -1-ethanol | 0.05 mol, 5.5 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2-(1H-imidazol-1-yl)-ethyl 2,4-dichlorobenzoate (Z)-2-butenedioate | C(\C=C/C(=O)O)(=O)O.ClC1=C(C(=O)OCCN2C=NC=C2)C=CC(=C1)Cl | InChI=1S/C12H10Cl2N2O2.C4H4O4/c13-9-1-2-10(11(14)7-9)12(17)18-6-5-16-4-3-15-8-16;5-3(6)1-2-4(7)8/h1-4,7-8H,5-6H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
